US07067537B2
i) Production of 1-(3-iodo-4-methylbenzoyl)pyrrolidine
By the reaction in the same manner as in Example 26-i) using 3-iodo-4-methylbenzoyl chloride (2.00 g) and pyrrolidine (3.5 ml), the title compound (1.62 g) was obtained as a pale-yellow oil.

reactant | 3-iodo-4-methylbenzoyl chloride | 2.00 g | IC=1C=C(C(=O)Cl)C=CC1C | C8H6ClIO
reactant | pyrrolidine | 3.5 ml | N1CCCC1 | C4H9N
product | 1-(3-iodo-4-methylbenzoyl)pyrrolidine | 1.62 g | IC=1C=C(C(=O)N2CCCC2)C=CC1C | C12H14INO
